US09353107B2
Step-iii: (S)-1-(4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)-1,4-diazepan-1-yl)propan-2-ol
Using similar reaction conditions as described in step-i of example-82A, 5-(4-(1,4-diazepan-1-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (100 mg, 0.161 mmol) was alkylated using (S)-2-methyloxirane (14 mg, 0.241 mmol), DIPEA (62 mg, 0.48 mmol) and ethanol (3 mL) to get 100 mg (91.7% yield) of the titled compound. MS: m/z=679.6 (M+1).

reactant | 5-(4-(1,4-diazepan-1-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.161 mmol, 100 mg | N1(CCNCCC1)C1=CC=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)S(=O)(=O)C2=CC=C(C)C=C2 | C35H33FN6O2S
reactant | (S)-2-methyloxirane | 0.241 mmol, 14 mg | C[C@@H]1OC1 | C3H6O
reactant | DIPEA | 0.48 mmol, 62 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (S)-1-(4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)-1,4-diazepan-1-yl)propan-2-ol | 100 mg, 91.7% yield | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CCC3)C[C@H](C)O)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C38H39FN6O3S
